US05578620
6-Phenylhexyloxymethyloxirane
A procedure similar to that described in Preparation 46 was repeated, except that 5 g of 6-phenyl-1-hexanol, 4.6 ml of epibromohydrin, 1.23 g of sodium hydride (as a 55% by weight dispersion in mineral oil) and 80 ml of anhydrous dimethylformamide were used. The resulting crude product was purified by silica gel column chromatography, using a 1:7 by volume mixture of ethyl acetate and hexane as the eluent, to give 4.35 g of the title compound as a colorless oil having an Rf value of 0.60 (on silica gel thin layer chromatography, using a 1:5 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | 6-phenyl-1-hexanol | 5 g | C1(=CC=CC=C1)CCCCCCO | C12H18O
reactant | epibromohydrin | 4.6 ml | C(Br)C1CO1 | C3H5BrO
reactant | sodium hydride | 1.23 g | [H-].[Na+]
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 6-Phenylhexyloxymethyloxirane | 4.35 g | C1(=CC=CC=C1)CCCCCCOCC1OC1 | C15H22O2
